US04472413
9-(4-Fluorobenzyl)-9-aza-bicyclo-[3.3.1]-nonan-3-one (D5)
A solution of 4-fluorobenzylamine (25 g) in dilute hydrochloric acid (5N, 40 ml) was added to glutaric dialdehyde (50%, 48 ml) in water (800 ml) with stirring. A solution of 1,3-acetonedicarboxylic acid (29.2 g) and sodium acetate (16.4 g) in water (200 ml) was then added and the mixture stirred for 24 hours at room temperature. A further quantity of dilute hydrochloric acid (10 ml) was then added and the mixture stirred for a further 48 hours.

reactant | 4-fluorobenzylamine | 25 g | FC1=CC=C(CN)C=C1 | C7H8FN
reactant | glutaric dialdehyde | 48 ml | C(CC=O)CC=O | C5H8O2
reactant | 1,3-acetonedicarboxylic acid | 29.2 g | C(C(=O)CC(=O)O)C(=O)O | C5H6O5
reactant | sodium acetate | 16.4 g | C(C)(=O)[O-].[Na+]
solvent | hydrochloric acid | 5N, 40 ml | Cl | ClH
solvent | water | 800 ml | O | H2O
solvent | water | 200 ml | O | H2O
solvent | hydrochloric acid | 10 ml | Cl | ClH
product | 9-(4-Fluorobenzyl)-9-aza-bicyclo-[3.3.1]-nonan-3-one | FC1=CC=C(CN2C3CC(CC2CCC3)=O)C=C1 | C15H18FNO
